Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1](=[C:2]([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])[H:10].[O:3]([H:9])[H:11],60.3757765537397
[N:1](=[C:2]=[C:3]([C:4]#[N:5])[H:6])[H:7]>>[N:1]#[C:2][C:3]([C:4]#[N:5])([H:6])[H:7],58.039279020028005
[O:1]([C+:2][N:6]([N:5][C:4](=[N-:3])[H:8])[H:9])[H:7]>>[O:1]([c+:2]1[n-:3][c:4]([H:8])[n:5][n:6]1[H:9])[H:7],13.325257084619011
[C:1]([N:3]([C:2]([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9].[C:5](=[O:6])[H:15]>>[C:1]([C:2]([N:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[O:6])[H:15])([H:10])[H:11])([H:7])([H:8])[H:9],31.796238981983493
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[H:11])([H:8])([H:9])[H:10].[C:4](=[N:5][H:15])([H:13])[H:14].[C:6](=[O:7])([H:12])[H:16],64.1660125602455
[O:1]=[c:2]1[n:3]([H:7])[n:4][n:5][n:6]1[H:8]>>[N:3](=[N:4]/[N:5]=[N:6]/[H:8])\[H:7].[O+:1]#[C-:2],72.6899022653905
[C:4](=[C:5]([O:6][H:8])[H:11])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:7]>>[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7],57.78025574791968
[C:2](=[C:3]=[C:4]=[C:5]=[O:6])([H:8])[H:9].[O:1]([H:7])[H:10]>>[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7],53.65475049696757
[O:1]=[C:2]([C:3]([C:4]#[C:5][H:10])([H:8])[H:9])[C:6]#[N:7]>>[O+:1]#[C:2][C:3]([C:4](=[C-:5][H:10])[C:6]#[N:7])([H:8])[H:9],55.5062734264868
[C:1]([C:2](=[O:3])[C:4]([O:5][H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:6](#[C:7][H:15])[H:14]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([O:5][H:14])([H:12])[H:13])[C:6]#[C:7][H:15])([H:8])([H:9])[H:10],44.5650849881615
[C:1](=[C:2]1[N-:3][O+:4]=[C:5]([N:6]([H:11])[H:12])[C:7]1([H:9])[H:13])([H:8])[H:10]>>[C:1]([c:2]1[n:3][o:4][c:5]([N:6]([H:11])[H:12])[c:7]1[H:13])([H:8])([H:9])[H:10],37.142632884796
[C:1](/[C:2]([O:3][H:10])=[N:4]\[C:5](=[N:6]\[H:12])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],21.6136580543866
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([O:6][C:5]([H:14])([H:15])[H:17])=[C:7]1[H:16])([H:8])([H:9])[H:10],90.16089800558649
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2]=[C:7]([C:6]=[O:5])[H:10])[H:8].[N:3]=[N:4][H:9],90.10475273448307
[C:4](=[O:5])([H:10])[H:11].[N:1]([C-:2]=[O+:3][C:6](=[O:7])[H:12])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([O:5][C:6](=[O:7])[H:12])([H:10])[H:11])([H:8])[H:9],1.2897511012467007
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1](/[C:2](=[N:3]\[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10],106.401211529492
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([O:6][H:18])[H:17],72.4808759771113
[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:6][C:5](=[O:4])[H:11])([H:7])([H:8])[H:9].[C:2]=[N:3][H:10],97.42004938549879
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([O:6][C:5]([H:14])([H:15])[H:17])=[C:7]1[H:16])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],92.21896514454605
[C:1]([C:2](/[N:3]=[C:4](/[O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([N+:3]([C-:2]([H:10])[H:11])=[C:4]([O:5][C:6]([H:13])([H:14])[H:15])[H:12])([H:7])([H:8])[H:9],87.98891771273321
[C:1]([C:4]([C:2](=[O:3])[H:11])([H:13])[H:14])([H:8])([H:9])[H:10].[C:5](=[C:6]([O:7][H:12])[H:17])([H:15])[H:16]>>[C:1]([C@@:2]([O:3][H:12])([C:4]([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],56.62178840596907
[O:1](/[C:2](=[C:3](\[C:4]([H:8])([H:10])[H:11])[H:9])[C:5]#[N:6])[H:7]>>[O:1]([C:2]1([C:5]#[N:6])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],80.17797353417
[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[O:5]/[C:6]1=[N:7]\[H:16])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:6]=[N:7][H:16])([H:8])([H:9])[H:10].[C:4](=[O:5])([H:14])[H:15],54.156279184743994
[C:1]([O:2][C:3](=[O:4])[C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[O+:2][C:3](=[O:4])[C:5]([C-:6]([O:7][H:9])[H:13])([H:11])[H:12])([H:8])[H:10],82.6605484493727
[C:2](=[C:3]([H:10])[H:11])([C:5]#[N:6])[H:9].[N:1]([O:4][H:12])([H:7])[H:8]>>[N:1]([C@@:2]([C:3]([O:4][H:12])([H:10])[H:11])([C:5]#[N:6])[H:9])([H:7])[H:8],47.69192077025586
[C:1]([C:2]1([O:5][C:6](=[O:7])[H:15])[C:3]([H:11])([H:12])[C:4]1([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[H:11])=[O:5])([H:8])([H:9])[H:10].[C:6](=[O:7])([H:12])[H:15],60.741573321374396
